US07977477B2
To solution of 5-chlorosulphonyl-2-methoxy-benzoic acid (0.5 g, 1.99 mmol) in acetone (5 ml) was added N-methylpiperazine (0.219 g, 2.19 mmol) and triethylamine (0.33 ml, 2.3 mmol) and the mixture stirred at RT. After 2 hours the reaction mixture was filtered and the collected solid washed with acetone, water and then diethylether to yield 2-methoxy-5-(4-methyl-piperazine-1-sulphonyl)-benzoic acid (150 mg, 24%). (LC/MS (acidic method): Rt 0.34, [M+H]+ 315).

reactant | 5-chlorosulphonyl-2-methoxy-benzoic acid | 1.99 mmol, 0.5 g | ClS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OC | C8H7ClO5S
reactant | N-methylpiperazine | 2.19 mmol, 0.219 g | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 2.3 mmol, 0.33 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 2-methoxy-5-(4-methyl-piperazine-1-sulphonyl)-benzoic acid | 150 mg, 24% | COC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1CCN(CC1)C | C13H18N2O5S
